US07741315B2
Step 4: Butyl N-[ethoxy(oxo)acetyl]glycinate
A mixture of 2-butoxy-2-oxoethanaminium chloride (573.5 g, 3.42 mol), triethylamine (415 g, 4.1 mol), and diethyl oxalate (1.0 kg, 6.8 mol) in ethanol (7 L) was heated at 50° C. for 3 hours. The product mixture was cooled and concentrated under vacuum. The residue was dissolved in methylene chloride and washed with two 4 L portions of water. The organic fraction was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residual oil was subjected to column chromatography on silica gel eluting with heptane/ethyl acetate gradient. Collection and concentration of appropriate fractions provided the title material.

reactant | 2-butoxy-2-oxoethanaminium chloride | 3.42 mol, 573.5 g | [Cl-].C(CCC)OC(C[NH3+])=O
reactant | triethylamine | 4.1 mol, 415 g | C(C)N(CC)CC | C6H15N
reactant | diethyl oxalate | 6.8 mol, 1.0 kg | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 7 L | C(C)O | C2H6O
product | Butyl N-[ethoxy(oxo)acetyl]glycinate | C(C)OC(C(=O)NCC(=O)OCCCC)=O | C10H17NO5
